US04871469
An equimolar mixture of p-trifluoromethylbenzaldehyde and 2-pentylpropane-1,3-diol in toluene is boiled on a water separator with catalysis by p-toluenesulfonic acid. When the water separation is complete and after conventional work-up, p-(trans-5-n-pentyl-1,3-dioxan-2-yl)trifluorotoluene, m.p. 44.3°, Δε=+12.9, is obtained.

reactant | p-trifluoromethylbenzaldehyde | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | 2-pentylpropane-1,3-diol | C(CCCC)C(CO)CO | C8H18O2
reactant | water | O | H2O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | p-(trans-5-n-pentyl-1,3-dioxan-2-yl)trifluorotoluene | C(CCCC)[C@H]1CO[C@@H](OC1)C1=CC=C(C=C1)C(F)(F)F | C16H21F3O2
